US07432291B2
iii) 1-[2-(4-{2-[2-(E)-(4-Trifluoromethoxy-phenyl)-vinyl]-thiazol-4-ylmethoxy}-benzyloxy)-ethyl]-1H-[1,2,3]triazole
182 mg (7.00 mmol) 95% Sodium hydride were given to a solution of 1.50 g (7.00 mmol) 4-(2-[1,2,3]triazol-1-yl-ethoxymethyl)-phenol in 7.0 ml DMF and stirred for 15 min. 2.06 g (7.00 mmol) 4-Chloromethyl-2-[2-(4-trifluoromethoxy-phenyl)-vinyl]-thiazole were added and stirring continued at r.t. overnight. After addition of 20 ml water the resulting precipitate was washed twice with 10 ml water, then with n-heptane and finally a little amount of diethyl ether and dried at 45° C. in vacuum. Yield 2.4 g.

reactant | Sodium hydride | 7.00 mmol, 182 mg | [H-].[Na+]
reactant | 4-(2-[1,2,3]triazol-1-yl-ethoxymethyl)-phenol | 7.00 mmol, 1.50 g | N1(N=NC=C1)CCOCC1=CC=C(C=C1)O | C11H13N3O2
reactant | 4-Chloromethyl-2-[2-(4-trifluoromethoxy-phenyl)-vinyl]-thiazole | 7.00 mmol, 2.06 g | ClCC=1N=C(SC1)C=CC1=CC=C(C=C1)OC(F)(F)F | C13H9ClF3NOS
reactant | water | 20 ml | O | H2O
solvent | DMF | 7.0 ml | CN(C)C=O | C3H7NO
product | 1-[2-(4-{2-[2-(E)-(4-Trifluoromethoxy-phenyl)-vinyl]-thiazol-4-ylmethoxy}-benzyloxy)-ethyl]-1H-[1,2,3]triazole | FC(OC1=CC=C(C=C1)/C=C/C=1SC=C(N1)COC1=CC=C(COCCN2N=NC=C2)C=C1)(F)F | C24H21F3N4O3S
